US07504425B2
Benzyl N-trityl-3(S)-methylaziridine-2(R)-carboxylate, (2.13 g, 4.92 mmol) was dissolved in 20 ml of MeOH:DCM (1:1) at 0° C., followed by addition of TEA (20 ml). After stirring at room temperature for 1 hr, the excess reagent and solvent were removed on rotavap (T<25° C.). The residue was partitioned with DCM (50 ml) and H2O (100 ml). The aqueous phase was washed once with DCM, and pH was adjusted to basic with NaHCO3 extracted with ethylacetate, and dried over Na2SO4. Removal of solvent left 650 mg of Benzyl 3(S)-methylaziridine-2(R)-carboxylate. This was dissolved in DMF (15 ml) at 0° C. TEA (2.1 ml, 15 mmol) was added, followed by Boc2O (1.64 g, 7.5 mmol). The reaction was stirred at room temperature overnight. Ethylacetate (100 ml), H2O (100 ml) were added, and the organic layer was washed with 10% citric acid twice, brine, and dried over Na2SO4. The crude product was flash column chromatographed, eluting with 5% 10% EA/hexane gradient solvent containing 0.1% TEA, to give benzyl N-Boc-3(S)-methylaziridine-2(R)-carboxylate. NMR (500 M, CD3OD) δ: 1.21(d, 3H), 1.44(s, 9H), 2.82 (m, 1H), 3.21(d, 1H), 5.2 (q, 2H), 7.30˜7.38(m, 5H).

reactant | Benzyl N-trityl-3(S)-methylaziridine-2(R)-carboxylate | 4.92 mmol, 2.13 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1[C@H]([C@@H]1C)C(=O)OCC1=CC=CC=C1 | C30H27NO2
reactant | Boc2O | 7.5 mmol, 1.64 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethylacetate | 100 ml | C(C)OC(C)=O | C4H8O2
reactant | H2O | 100 ml | O | H2O
solvent | MeOH DCM | 20 ml | CO.C(Cl)Cl
product | benzyl N-Boc-3(S)-methylaziridine-2(R)-carboxylate | C(=O)(OC(C)(C)C)N1[C@H]([C@@H]1C)C(=O)OCC1=CC=CC=C1 | C16H21NO4
